US04958037
2,5-Dihydro-2,5-dimethoxy-2-(8,8,8-trimethoxy-3-octynyl)furan
To a stirred mixture of 0.51 g of lithium amide and ml of liquid ammonia was added dropwise a solution of 3.64 g of 2,5-dihydro-2,5-dimethoxy-2-(3-butynyl)furan in 2.5 ml of tetrahydrofuran during 5 minutes. The mixture was stirred under reflux for 30 minutes and then treated dropwise with a solution of 5.0 g of 1-bromo-4,4,4-trimethoxybutane (U.S. Pat. No. 3,864,387) in 5 ml of tetrahydrofuran during 5 minutes. This solution was stirred under reflux for one hour, the ammonia allowed to evaporate during one hour and the resulting solution stirred at 20° C. for 10 minutes. This solution was partitioned with ether and brine. The organic layer was dried, treated with 2 drops of pyridine, and then concentrated, giving 7.1 g of the desired compound as a light amber oil; PMR δ 5.9 (2H, m, vinyl hydrogens).

reactant | lithium amide | 0.51 g | [NH2-].[Li+]
reactant | ammonia | N | H3N
reactant | 2,5-dihydro-2,5-dimethoxy-2-(3-butynyl)furan | 3.64 g | COC1(OC(C=C1)OC)CCC#C | C10H14O3
reactant | 1-bromo-4,4,4-trimethoxybutane | 5.0 g | BrCCCC(OC)(OC)OC | C7H15BrO3
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,5-Dihydro-2,5-dimethoxy-2-(8,8,8-trimethoxy-3-octynyl)furan | 7.1 g | COC1(OC(C=C1)OC)CCC#CCCCC(OC)(OC)OC | C17H28O6
